US08293798B2
Ethyl [3-(aminomethyl)phenyl]acetate hydrochloride
A mixture of (3-cyanophenyl)acetic acid (3 g, 18.6 mmol), 10% palladium on charcoal (300 mgs) and conc. hydrochloric acid (3 eqs, 4.6 mls, 55.8 mmol) in ethanol (100 mls) was subject to an atmosphere of hydrogenation overnight. The resulting mixture was filtered through hyflo and the catalyst washed thoroughly with ethanol. The solvent was then evaporated in vacuo to give a crunchy white solid. This was triturated with ether, filtered off and dried to afford a white solid (2.76 g). 1H-NMR (400 MHz, d4-MeOH) δ 1.24 (3H,t, J 8.0), 3.69 (2H,s), 4.11 (2H,s), 4.15 (2H,q, J 13.2 6.0), 7.17-7.20 (1H, m), 7.34-7.44 (4H, m).

reactant | (3-cyanophenyl)acetic acid | 18.6 mmol, 3 g | C(#N)C=1C=C(C=CC1)CC(=O)O | C9H7NO2
reactant | hydrochloric acid | 55.8 mmol, 4.6 mls | Cl | ClH
reactant | ethanol | 100 mls | C(C)O | C2H6O
catalyst | palladium on charcoal | 300 mgs | [Pd] | Pd
product | Ethyl [3-(aminomethyl)phenyl]acetate hydrochloride | 2.76 g | Cl.NCC=1C=C(C=CC1)CC(=O)OCC | InChI=1S/C11H15NO2.ClH/c1-2-14-11(13)7-9-4-3-5-10(6-9)8-12;/h3-6H,2,7-8,12H2,1H3;1H
